US04963590
2,5-Bis-(3,4-dihydroxy-5-nitrobenzylidene)cyclopentanone
The procedure described in Example 8 was repeated using 5.0 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 2.0 g of cyclopentanone. Yield 4.4 g (78%), m.p. 300° C. (decomp.).

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 5.0 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | cyclopentanone | 2.0 g | C1(CCCC1)=O | C5H8O
product | 2,5-Bis-(3,4-dihydroxy-5-nitrobenzylidene)cyclopentanone | OC=1C=C(C=C2C(C(CC2)=CC2=CC(=C(C(=C2)[N+](=O)[O-])O)O)=O)C=C(C1O)[N+](=O)[O-] | C19H14N2O9
